US06376555B1
3-(4-Methoxy-phenyl)-4-[2-(3-trifluoromethyl-phenyl)-ethylamino]-cyclobut-3-ene-1,2-dione
In a manner similar to Example 1, Step 2; 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione (0.150 g, 0.609 mmol) and 3-trifluoromethylphenethyl-amine (0.23 g, 1.22 mmol) in ethanol (3 mL) were converted to the title compound (0.155 g, 68%) m.p.: 220.2-222.3° C.; 1H NMR (DMSO-d6) δ 9.05(br t,1H), 7.95(ABq,2H), 7.60-7.45(m,4H), 7.08(ABq,2H), 3.94(br t,2H), 3.83(s,3H), 3.04(t,3H); IR (KBr) 3210, 3170, 1775, 1780, 1575, 1360, 1325, 1175, 1125, 1070, 1020, 840, 800, 695 cm−1; MS (m/z) 375 [M+].

reactant | 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione | 0.609 mmol, 0.150 g | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)OC)=O)=O | C14H14O4
reactant | 3-trifluoromethylphenethyl-amine | 1.22 mmol, 0.23 g | FC(C=1C=C(CCN)C=CC1)(F)F | C9H10F3N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-(4-Methoxy-phenyl)-4-[2-(3-trifluoromethyl-phenyl)-ethylamino]-cyclobut-3-ene-1,2-dione | 0.155 g, 68% | COC1=CC=C(C=C1)C=1C(C(C1NCCC1=CC(=CC=C1)C(F)(F)F)=O)=O | C20H16F3NO3
